US05001125
A mixture of 3 parts of 3,5-dimethylphenol, 1.25 parts of sodium hydride dispersion 50% and 25 parts of N,N-dimethylformamide was stirred for 15 minutes. Then there was added a solution of 4.5 parts of 3-chloro-6-(1H-imidazol-1-yl)pyridazine in 25 parts of N,N-dimethylformamide and the whole was stirred over weekend at 50° C. The reaction mixture was poured onto water and the product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was crystallized from 2-propanone, yielding 3.5 parts of 3-(3,5-dimethylphenoxy)-6-(1H-imidazol-1-yl)pyridazine; mp. 169.8° C. (compound 2).

reactant | 3,5-dimethylphenol | CC=1C=C(C=C(C1)C)O | C8H10O
reactant | sodium hydride | [H-].[Na+]
reactant | 3-chloro-6-(1H-imidazol-1-yl)pyridazine | ClC=1N=NC(=CC1)N1C=NC=C1 | C7H5ClN4
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(3,5-dimethylphenoxy)-6-(1H-imidazol-1-yl)pyridazine | CC=1C=C(OC=2N=NC(=CC2)N2C=NC=C2)C=C(C1)C | C15H14N4O
